US09085555B2
A. 1-Difluoromethoxy-2-fluoro-3-nitro-benzene
To a mixture of sodium 2-chloro-2,2-difluoroacetate (7.14 g, 46.8 mmol) and potassium carbonate (3.50 g, 25.3 mmol) in DMF (10 mL) and water (2.5 mL) at 110° C. was added a solution of 2-fluoro-3-nitrophenol (2 g, 12.65 mmol) in DMF (10 mL) and the mixture was stirred at 110° C. for 6 h. After cooling down, the mixture was quenched with water and extracted with EtOAc. The organic layer was then washed with water, brine and dried over Na2SO4, filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 7.79 (td, 1H), 7.45 (t, 1H), 5.15 (m, 1H), 7.44 (m, 1H). tR (HPLC conditions f): 2.09 min.

reactant | sodium 2-chloro-2,2-difluoroacetate | 46.8 mmol, 7.14 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 25.3 mmol, 3.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-3-nitrophenol | 12.65 mmol, 2 g | FC1=C(C=CC=C1[N+](=O)[O-])O | C6H4FNO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 2.5 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-Difluoromethoxy-2-fluoro-3-nitro-benzene | FC(OC1=C(C(=CC=C1)[N+](=O)[O-])F)F | C7H4F3NO3
